US09170487B2
A four-neck flask having an internal capacity of 300 mL and fitted with a stirrer, a dropping funnel and a thermometer was charged with a 5.0 (mol/L) aqueous solution of sodium hydroxide, and 29.5 g of methyl 2,3-epoxy-7-oxabicyclo[2.2.1]hept-2-ene-5-sulfonate was added dropwise to the flask from the dropping funnel so that the internal temperature of the flask was maintained within a range from 20 to 23° C. Following completion of the dropwise addition, the reaction mixture was stirred for 4 hours, and then while the flask was cooled in an ice bath, concentrated hydrochloric acid was added dropwise to adjust the pH to 7.3. Subsequently, the reaction mixture was extracted 4 times with 300 mL samples of ethyl acetate, the thus obtained organic layers were combined and concentrated, and the resulting concentrate was separated and purified by silica gel column chromatography, yielding 4.75 g (purity: 98.8%, 0.024 mol) of 2-hydroxy-4,8-dioxa-5-thiatricyclo[4.2.1.03,7]nonane=5,5-dioxide.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl 2,3-epoxy-7-oxabicyclo[2.2.1]hept-2-ene-5-sulfonate | 29.5 g | O1C=2C3CC(C(C21)O3)S(=O)(=O)OC | C7H8O5S
reactant | hydrochloric acid | Cl | ClH
product | 2-hydroxy-4,8-dioxa-5-thiatricyclo[4.2.1.03,7]nonane | 0.024 mol, 4.75 g | OC1C2OC3C(SOC13)C2 | C6H8O3S
